US06743920B2
2-Chloro-N-(2-methylpropyl)-6-methyl-3-nitropyridin-4-amine
2,4Dichloro-6-methyl-3-nitropyridine (39.5 g) from Part A and anhydrous dimethylformamide (400 ml) were combined and cooled to 0° C. Triethylamine (26.6 ml) and then 2-methylpropylamine (20.9 ml) were added to the resulting mixture with mixing. The reaction was complete after 16 hours, as determined by high pressure liquid chromatography (HPLC) and TLC monitoring. The dimethylformamide was removed from the resulting reaction mixture under reduced pressure, and the resulting dark yellow oil was dissolved in ethyl acetate (800 ml). The ethyl acetate solution was washed with water (3×400 ml), dried with magnesium sulfate, and the solvent was removed under reduced pressure. The resulting dark orange oil was dissolved in hexane (400 ml) and cooled to below 0° C. A seed crystal was added, and after 2 hours the resulting crystals were filtered and washed with cold (<0° C.) hexane. The crystals (30.49 g) were found to be pure by NMR analysis.

reactant | 2,4Dichloro-6-methyl-3-nitropyridine | 39.5 g | ClC1=NC(=CC(=C1[N+](=O)[O-])Cl)C | C6H4Cl2N2O2
reactant | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
reactant | 2-methylpropylamine | 20.9 ml | CC(CN)C | C4H11N
solvent | Triethylamine | 26.6 ml | C(C)N(CC)CC | C6H15N
product | 2-Chloro-N-(2-methylpropyl)-6-methyl-3-nitropyridin-4-amine | ClC1=NC(=CC(=C1[N+](=O)[O-])NCC(C)C)C | C10H14ClN3O2
